US07186729B2
Step 3: 5-Chloro-2-piperazin-1-yl-benzonitrile
A solution of 4-(4-chloro-2-cyano-phenyl)-piperazine-1-carboxylic acid tert-butyl ester (0.32 g, 1 mmol) in dichloromethane cooled at 0° C. was treated with trifluoroacetic acid (20%) and warmed to room temperature and stirred for 2 h. The reaction mixture was concentrated in vacuo, diluted with ethyl acetate and free based with 10% aqueous sodium bicarbonate. The organic layers were separated and dried over sodium sulfate and concentrated in vacuo. The product used without further purification.

reactant | 4-(4-chloro-2-cyano-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 1 mmol, 0.32 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=C(C=C1)Cl)C#N | C16H20ClN3O2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-Chloro-2-piperazin-1-yl-benzonitrile | ClC=1C=CC(=C(C#N)C1)N1CCNCC1 | C11H12ClN3
